US04360466
N'-[2,6-Dichloro-4-(o-hydroxybenzylideneamino)phenyl]N,N-dimethylformamidine
A mixture of 3.7 g. of salicylaldehyde and 7.0 g. of N'-[4-amino-2,6-dichlorophenyl]-N,N-dimethylformamidine is heated neat at 80° C. for 18 hours. The mixture is cooled and ethanol is added to give crystals. The mixture is heated and then cooled to recrystallize the product. The product is collected, washed with cold ethanol then ether to give 9.0 g. of the product of the Example as yellow crystals, m.p. 113°-115° C.

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | N'-[4-amino-2,6-dichlorophenyl]-N,N-dimethylformamidine | NC1=CC(=C(C(=C1)Cl)N=CN(C)C)Cl | C9H11Cl2N3
solvent | ethanol | C(C)O | C2H6O
product | N'-[2,6-Dichloro-4-(o-hydroxybenzylideneamino)phenyl]N,N-dimethylformamidine | ClC1=C(C(=CC(=C1)N=CC1=C(C=CC=C1)O)Cl)N=CN(C)C | C16H15Cl2N3O
